* c:\users\soham\desktop\digstairdown\digstairdown.cir

* u4  net-_u4-pad1_ net-_u2-pad2_ net-_u1-pad2_ net-_u3-pad2_ net-_u4-pad5_ net-_u4-pad1_ d_dff
* u5  net-_u5-pad1_ net-_u4-pad5_ net-_u1-pad2_ net-_u3-pad2_ net-_u5-pad5_ net-_u5-pad1_ d_dff
* u6  net-_u6-pad1_ net-_u5-pad5_ net-_u1-pad2_ net-_u3-pad2_ net-_u6-pad5_ net-_u6-pad1_ d_dff
* u7  net-_u7-pad1_ net-_u6-pad5_ net-_u1-pad2_ net-_u3-pad2_ net-_u7-pad5_ net-_u7-pad1_ d_dff
v2  ? gnd pulse(0 5 0 15ms 15ms 15ms 15ms)
* u2  ? net-_u2-pad2_ adc_bridge_1
r8  out net-_r8-pad2_ 20k
r6  o3 net-_r6-pad2_ 20k
r4  o2 net-_r4-pad2_ 20k
r2  o1 net-_r2-pad2_ 20k
r1  gnd o1 20k
* u8  net-_u4-pad5_ net-_u5-pad5_ net-_u6-pad5_ net-_u7-pad5_ net-_r2-pad2_ net-_r4-pad2_ net-_r6-pad2_ net-_r8-pad2_ dac_bridge_4
r3  o1 o2 10k
r5  o2 o3 10k
r7  o3 out 10k
* u9  out plot_v1
v1 net-_u1-pad1_ gnd  dc 0
* u1  net-_u1-pad1_ net-_u1-pad2_ adc_bridge_1
* u3  gnd net-_u3-pad2_ adc_bridge_1
* u10  o1 plot_v1
* u11  o2 plot_v1
* u12  o3 plot_v1
c1  out gnd 1nf
a1 net-_u4-pad1_ net-_u2-pad2_ net-_u1-pad2_ net-_u3-pad2_ net-_u4-pad5_ net-_u4-pad1_ u4
a2 net-_u5-pad1_ net-_u4-pad5_ net-_u1-pad2_ net-_u3-pad2_ net-_u5-pad5_ net-_u5-pad1_ u5
a3 net-_u6-pad1_ net-_u5-pad5_ net-_u1-pad2_ net-_u3-pad2_ net-_u6-pad5_ net-_u6-pad1_ u6
a4 net-_u7-pad1_ net-_u6-pad5_ net-_u1-pad2_ net-_u3-pad2_ net-_u7-pad5_ net-_u7-pad1_ u7
a5 [? ] [net-_u2-pad2_ ] u2
a6 [net-_u4-pad5_ net-_u5-pad5_ net-_u6-pad5_ net-_u7-pad5_ ] [net-_r2-pad2_ net-_r4-pad2_ net-_r6-pad2_ net-_r8-pad2_ ] u8
a7 [net-_u1-pad1_ ] [net-_u1-pad2_ ] u1
a8 [gnd ] [net-_u3-pad2_ ] u3
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u4 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u5 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u6 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_dff, NgSpice Name: d_dff
.model u7 d_dff(clk_delay=1.0e-9 set_delay=1.0e-9 reset_delay=1.0 ic=0 data_load=1.0e-12 clk_load=1.0e-12 set_load=1.0e-12 reset_load=1.0e-12 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u2 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             dac_bridge_4, NgSpice Name: dac_bridge
.model u8 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u1 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, NgSpice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
.tran 20e-03 1000e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)
plot v(o1)
plot v(o2)
plot v(o3)
.endc
.end
